US08227431B2
Preparation of (2R,4R)-5-(6-(cyclohexylamino)-9H-purin-9-yl)-4-fluoro-2-(hydroxymethyl)-3,4-dimethyltetrahydrofuran-3-ol
A solution of ((2R,4R)-3-acetoxy-5-(6-(cyclohexylamino)-9H-purin-9-yl)-4-fluoro-3,4-dimethyltetrahydrofuran-2-yl)methyl benzoate (about 0.32 g, 0.60 mmol) in methanolic ammonia (25% w/w 15 ml) was stirred at room temperature for overnight. Completion of the reaction monitored by thin-layer chromatography and methanol was removed under reduced pressure then water added to the crude and extracted with ethyl acetate. The organic layer was dried over sodium sulphate, concentrated under reduced pressure and purified by silica gel column chromatography using 5% Methanol in dichloromethane to elude title compound (0.2 g) as a colorless solid. Yield: 86%; 1H NMR (300 MHz, CDCl3): δ 8.32 (s, 1H), 7.93 (d, 1H, J=3.3 Hz), 6.60 (d, 1H, J=22.5 Hz), 5.79 (bs, 1H), 5.51 (s, 1H), 5.23 (bs, 1H), 4.25-4.13 (m, 3H), 2.17-2.04 (m, 1H), 1.76-1.52 (m, 16H); ES Mass: [M+1]+ 380 (100%), 381 (45%); IR cm−: 3338, 2928, 2854, 1624, 1475, 1226, 1062, 938, 740; HPLC: 97.8%.

reactant | ((2R,4R)-3-acetoxy-5-(6-(cyclohexylamino)-9H-purin-9-yl)-4-fluoro-3,4-dimethyltetrahydrofuran-2-yl)methyl benzoate | 0.60 mmol, about 0.32 g | C(C1=CC=CC=C1)(=O)OC[C@H]1OC([C@](C1(C)OC(C)=O)(C)F)N1C2=NC=NC(=C2N=C1)NC1CCCCC1 | C27H32FN5O5
reactant | methanol | CO | CH4O
solvent | ammonia | 15 ml | N | H3N
product | (2R,4R)-5-(6-(cyclohexylamino)-9H-purin-9-yl)-4-fluoro-2-(hydroxymethyl)-3,4-dimethyltetrahydrofuran-3-ol | Yield: 86% | C1(CCCCC1)NC1=C2N=CN(C2=NC=N1)C1[C@](C([C@H](O1)CO)(O)C)(C)F | C18H26FN5O3
